US05468882
N-Cyclohexylmethyl-2-aminomethyl-8-methoxychroman hydrochloride
9.3 ml of a 2.7M hydrogen chloride solution in diethyl ether are added to 7.2 g (15 mmol) of N-cyclohexylmethyl-2-aminomethyl-8-methoxychroman in 200 ml of diethyl ether at 0° to -10° C., while stirring. After 2 hours, the precipitate is filtered off, washed thoroughly with diethyl ether and dried at 60° C./0.01 mbar.

reactant | hydrogen chloride | 2.7M | Cl | ClH
reactant | N-cyclohexylmethyl-2-aminomethyl-8-methoxychroman | 15 mmol, 7.2 g | C1(CCCCC1)CNCC1OC2=C(C=CC=C2CC1)OC | C18H27NO2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | N-Cyclohexylmethyl-2-aminomethyl-8-methoxychroman hydrochloride | Cl.C1(CCCCC1)CNCC1OC2=C(C=CC=C2CC1)OC | InChI=1S/C18H27NO2.ClH/c1-20-17-9-5-8-15-10-11-16(21-18(15)17)13-19-12-14-6-3-2-4-7-14;/h5,8-9,14,16,19H,2-4,6-7,10-13H2,1H3;1H
